US09260455B2
Step 1. Synthesis of N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(ethoxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C25)
N-[(4R,4aR,6R,8aS)-8a-(2,4-Difluorophenyl)-6-(hydroxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P2) was reacted with iodoethane according to the method described for synthesis of N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(methoxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C20) in Example 2. In this case, additional silica gel chromatography (Gradient: 0% to 5% methanol in dichloromethane) was carried out. The product was obtained as a white solid. Yield: 24.8 mg, 53.8 μmol, 41%. LCMS m/z 461.2 [M+H+]. 1H NMR (400 MHz, CD3OD) δ 8.12 (br d, J=7 Hz, 2H), 7.51-7.57 (m, 1H), 7.39-7.48 (m, 3H), 7.01-7.11 (m, 2H), 4.14 (br d, J=12 Hz, 1H), 3.89 (d, J=11.9 Hz, 1H), 3.82-3.89 (m, 1H), 3.47-3.61 (m, 4H), 3.19-3.27 (br m, 1H), 2.97-3.04 (m, 1H), 1.74-1.82 (m, 1H), 1.51-1.63 (m, 1H), 1.25 (d, J=6.8 Hz, 3H), 1.17 (t, J=7.0 Hz, 3H).

reactant | N-[(4R,4aR,6R,8aS)-8a-(2,4-Difluorophenyl)-6-(hydroxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(S[C@@H]([C@@H]1C[C@@H](OC2)CO)C)NC(C2=CC=CC=C2)=O | C22H22F2N2O3S
reactant | iodoethane | ICC | C2H5I
reactant | N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(methoxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(S[C@@H]([C@@H]1C[C@@H](OC2)COC)C)NC(C2=CC=CC=C2)=O | C23H24F2N2O3S
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(ethoxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(S[C@@H]([C@@H]1C[C@@H](OC2)COCC)C)NC(C2=CC=CC=C2)=O | C24H26F2N2O3S
